US05723165
60 ml of 4N-HCl/dioxane solution was added to 4.02 g (16.0 mmols) of N-t-butoxycarbonyl-(R)-α-methoxymethylbenzylamine, and the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure. 30 ml of ether were added to the residue, and this was further concentrated to obtain (R)-α-methoxymethylbenzylamine hydrochloride in quantitative yield.

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-t-butoxycarbonyl-(R)-α-methoxymethylbenzylamine | 16.0 mmols, 4.02 g | C(C)(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)COC | C14H21NO3
product | (R)-α-methoxymethylbenzylamine hydrochloride | quantitative yield | Cl.COC[C@@H](C1=CC=CC=C1)N | InChI=1S/C9H13NO.ClH/c1-11-7-9(10)8-5-3-2-4-6-8;/h2-6,9H,7,10H2,1H3;1H/t9-;/m0./s1
